US06028032
A solution of benzyl 2-(2,3-dihydro-6-hydroxymethyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (2.0 g) in dichloromethane was added over 5 minutes to a stirred suspension of pyridinium chlorochromate (0.9 g) in dichloromethane at ambient temperature. After stirring for 1 hour the reaction mixture was diluted with dichloromethane and washed with water. The organic solution was dried (magnesium sulphate) and solvent evaporated under reduced pressure to give benzyl 2-(6-formyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (0.85 g) as an orange gum, NMR (CDCl3) 1.5(s,6H), 5.1(s,2H), 5.3(s,2H), 7.2(bs,5H), 7.3-7.4(m,5H), 9.25(s,1H).

reactant | benzyl 2-(2,3-dihydro-6-hydroxymethyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 2.0 g | OCC1=C(C(N(CO1)C(C(=O)OCC1=CC=CC=C1)(C)C)=O)C1=CC=CC=C1 | C22H23NO5
reactant | pyridinium chlorochromate | 0.9 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzyl 2-(6-formyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 0.85 g | C(=O)C1=C(C(N(CO1)C(C(=O)OCC1=CC=CC=C1)(C)C)=O)C1=CC=CC=C1 | C22H21NO5
